US09029544B2
(S)—((S)-5′-(tert-butyldimethylsilyloxy)-4′-iodo-2′-isopropyl-6′,8′-dihydro-5′H-spiro[cyclobutane-1,7′-quinoline]-3′-yl)(4-isopropylphenyl)methanol
Obtained by starting from (S)-5′-(tert-butyldimethylsilyloxy)-4′-iodo-2′-isopropyl-6′,8′-dihydro-5′H-spiro[cyclobutane-1,7′-quinoline]-3′-carbaldehyde and 4-isopropylphenylmagnesiumbromide.

reactant | (S)-5′-(tert-butyldimethylsilyloxy)-4′-iodo-2′-isopropyl-6′,8′-dihydro-5′H-spiro[cyclobutane-1,7′-quinoline]-3′-carbaldehyde | [Si](C)(C)(C(C)(C)C)O[C@@H]1C=2C(=C(C(=NC2CC2(C1)CCC2)C(C)C)C=O)I | C22H34INO2Si
reactant | 4-isopropylphenylmagnesiumbromide | C(C)(C)C1=CC=C(C=C1)[Mg]Br
product | (S)—((S)-5′-(tert-butyldimethylsilyloxy)-4′-iodo-2′-isopropyl-6′,8′-dihydro-5′H-spiro[cyclobutane-1,7′-quinoline]-3′-yl)(4-isopropylphenyl)methanol | [Si](C)(C)(C(C)(C)C)O[C@@H]1C=2C(=C(C(=NC2CC2(C1)CCC2)C(C)C)[C@@H](O)C2=CC=C(C=C2)C(C)C)I | C31H46INO2Si
